US04847256
Phenyl[4,5,6,7-tetrahydro-7-(4-pyridinyl)pyrazolo[1,5-a]pyrimidin-3-yl]methanone
To a 20.0 g portion of phenyl[7-(4-pyridinyl)pyrazolo[1,5-a]pyrimidin-3-yl]methanone (prepared as described in Ex. 9) suspended and stirred in 100 ml of glacial acetic acid under nitrogen was added in portions 8.5 g of sodium cyanoborohydride, during this addition another 50 ml of glacial acetic was also added. After 3 hours the solution was evaporated to dryness in vacuo. The residue was dissolved in dichloromethane and treated with saturated sodium bicarbonate until basic. The organic layer was separated and dried over anhydrous sodium sulfate. Evaporation gave a gummy solid. The solid was recrystallized from isopropyl alcohol and gave the desired product as a light yellow solid, mp 186°-189° C.

reactant | phenyl[7-(4-pyridinyl)pyrazolo[1,5-a]pyrimidin-3-yl]methanone | C1(=CC=CC=C1)C(=O)C=1C=NN2C1N=CC=C2C2=CC=NC=C2 | C18H12N4O
reactant | sodium cyanoborohydride | 8.5 g | C(#N)[BH3-].[Na+]
reactant | acetic | 50 ml | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | Phenyl[4,5,6,7-tetrahydro-7-(4-pyridinyl)pyrazolo[1,5-a]pyrimidin-3-yl]methanone | C1(=CC=CC=C1)C(=O)C=1C=NN2C1NCCC2C2=CC=NC=C2 | C18H16N4O
